US04064247
Carbon disulphide (40 g.) is added dropwise at 20° C., with vigorous stirring, to a solution of (S)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline (100 g) in 0.25N sodium hydroxide solution (4,000 cc.). The reaction is exothermic. A solid precipitates and the reaction mixture then sets solid. Stirring is continued for 3 hours. The reaction mixture is neutralised by adding 4N hydrochloride acid. The crystals formed are filtered off, washed copiously with water and then recrystallised from ethanol (3,000 cc.) to give (S)-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline-3-thione (77 g. ) in the form of fine white needles melting at 150° C.

reactant | Carbon disulphide | 40 g | C(=S)=S | CS2
reactant | (S)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 100 g | OS(=O)(=O)OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO4S
solvent | sodium hydroxide | 0.25N, 4,000 cc | [OH-].[Na+]
product | (S)-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline-3-thione | 77 g | C1SC(N2CC=3C=CC=CC3C[C@H]21)=S | C11H11NS2
